US05371062
A mixture of 1.2 g (4.7 mmol) of methyl 2-hydroxy-6-styrylbenzoate, 1.02 g (4.7 mmol) of 4,6-dimethoxy-2-methylsulphonyl-pyrimidine, 0.8 g (5.7 mmol) of potassium carbonate and 50 ml of acetonitrile is heated under reflux for 15 hours and then concentrated. The residue is shaken with methylene chloride/water, and the organic phase is dried with sodium sulphate and filtered. The filtrate is concentrated and the residue is purified by column chromatography (silica gel; hexane/ethyl acetate, 10:1). 1.0 g (54% of theory) of methyl 2-styryl-6-(4,6-di-methoxy-pyrimidin-2-yl-oxy)-benzoate is obtained as an amorphous product.

reactant | methyl 2-hydroxy-6-styrylbenzoate | 4.7 mmol, 1.2 g | OC1=C(C(=O)OC)C(=CC=C1)C=CC1=CC=CC=C1 | C16H14O3
reactant | 4,6-dimethoxy-2-methylsulphonyl-pyrimidine | 4.7 mmol, 1.02 g | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
reactant | potassium carbonate | 5.7 mmol, 0.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | methyl 2-styryl-6-(4,6-di-methoxy-pyrimidin-2-yl-oxy)-benzoate | 1.0 g, 54% | C(=CC1=CC=CC=C1)C1=C(C(=O)OC)C(=CC=C1)OC1=NC(=CC(=N1)OC)OC | C22H20N2O5
